US06787543B2
Propyl bromide (1 ml) was added to a mixture of 2-hydroxy-6-methoxybenzaldehyde (0.45 g), potassium carbonate (0.83 g) and a small amount of potassium iodide in a mixed solvent of N,N-dimethylformamide (10 ml) and acetone (5 ml). After being stirred for 5 hours at 100° C., the mixture was poured into ice-water (20 ml) and extracted with ethyl acetate. The extract was washed with brine (10 ml), dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (4:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give colorless oil of 2-methoxy-6-propoxybenzaldehyde (0.3 g).

reactant | Propyl bromide | 1 ml | C(CC)Br | C3H7Br
reactant | 2-hydroxy-6-methoxybenzaldehyde | 0.45 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-6-propoxybenzaldehyde | 0.3 g | COC1=C(C=O)C(=CC=C1)OCCC | C11H14O3
